* eeschema netlist version 1.1 (spice format) creation date: monday 15 april 2013 12:08:03 pm ist

v2  1 0 dc 12
V_u1 3 1 0
d1  5 3 diode
r1  2 5 100
v1  2 0 sine(0 24 50 0 0)

.tran 10e-03 1e-01 0e-00

* Control Statements 
.control
run
plot i(V_u1)
.endc
.end
