* eeschema netlist version 1.1 (spice format) creation date: monday 15 april 2013 03:25:12 pm ist

v1  3 0 dc 10
r2  1 0 2000
r1  3 1 500
d1  0 1 zener

.dc  v1 0e-00 10e-00 5e-03

* Control Statements 
.control
run
plot -v(1) 
.endc
.end
