* eeschema netlist version 1.1 (spice format) creation date: monday 13 may 2013 01:35:51 pm ist

* Plotting option vplot8_1
* Plotting option vplot8_1
V_u4 9 1 0
r2  1 8 100000
v3  8 4 pulse(0 1 0 0 0 2 )
* Plotting option vplot8_1
V_u2 3 0 0
V_u1 7 2 0
v1  4 0 3v
v2  6 0 10v
r1  6 7 3000
q1 2 9 3 npn

.tran  5e-00 100e-00 0e-00

* Control Statements 
.control
run
plot v(8) 
plot v(9) 
plot i(V_u4)
plot v(2) v(3) 
plot i(V_u2)
plot i(V_u1)
.endc
.end
