* eeschema netlist version 1.1 (spice format) creation date: tuesday 16 april 2013 12:27:13 pm ist

v1  7 0 pulse(0 5 0 0 0 1 2)
r1  1 0 5000
* Plotting option vplot8_1
V_u1 2 0 0
r2  4 5 10000
V_u3 5 7 0
v2  4 0 10v
V_u4 6 1 0
q1 7 2 6 npn

.tran  1e-00 10e-00 0e-00

* Control Statements 
.control
run
plot v(2) v(7) v(6) 
plot i(V_u1)
plot i(V_u3)
plot i(V_u4)
.endc
.end
