* eeschema netlist version 1.1 (spice format) creation date: monday 22 april 2013 02:21:49 pm ist

* Plotting option vplot8_1
v2  2 0 12
r2  4 3 47000
r1  3 5 10000
v1  5 0 sine( 5 50  )
r3  2 4 4700
q1 4 3 0 npn

.tran  2e-03 20e-03 0e-00

* Control Statements 
.control
run
plot v(5) v(4) 
.endc
.end
