* eeschema netlist version 1.1 (spice format) creation date: thursday 25 april 2013 11:19:59 am ist

r7  9 0 150
v1  2 5 sine( 5 50  )
r1  8 2 5k
r6  3 9 150
r4  7 9 150
r5  12 11 10k
r3  12 1 10k
q2 11 4 3 npn
r2  4 5 r
v3  12 6 15
q1 1 8 7 npn
v2  9 6 1m

.tran  2e-03 20e-03 0e-00

* Control Statements 
.control
run
plot v(1)-v(11) 
.endc
.end
