* Subcircuit ua741
.subckt ua741 6 7 3 
* eeschema netlist version 1.1 (spice format) creation date: monday 17 december 2012 11:16:58 am ist
rout1  3 2 75
eout1  2 0 1 0 1
cbw1  1 0 31.85e-9
rbw1  1 4 0.5e6
ein1  4 0 7 6 100e3
rin1  7 6 2e6

.ends ua741