* eeschema netlist version 1.1 (spice format) creation date: wednesday 19 december 2012 10:36:45 am ist
.include ua741.sub

* Plotting option vplot8_1
x1  2 0 4 ua741
v1  3 0 sine(0 5 50 0 0)
r3  4 0 10000
r1  2 3 1000
r2  4 2 2000

.tran  100e-06 40e-03 0e-00

* Control Statements 
.control
run
plot v(3) v(4) 
.endc
.end
