* eeschema netlist version 1.1 (spice format) creation date: friday 24 may 2013 02:18:18 pm ist

* Plotting option vplot8_1
i2  1 0 1
r5  1 0 1
r2  4 3 1
r4  1 4 2
r3  4 0 1
r1  3 0 1
i1  3 0 1

.dc  i1 0e-00 10e-00 1e-00

* Control Statements 
.control
run
plot v(4) 
.endc
.end
